US07851469B2
4-{4-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-benzoic acid methyl ester
As described for Example 24, 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole (900 mg, 3.0 mmol), using methyl 4-fluorobenzoate instead of 4-fluoroacetophenone, was converted to the title compound (580 mg, 44%) which was obtained as a white solid. MS: m/e=432.3 [M+H]+.

reactant | 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole | 3.0 mmol, 900 mg | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CNC1)C(F)(F)F | C13H7F4N3O
reactant | methyl 4-fluorobenzoate | FC1=CC=C(C(=O)OC)C=C1 | C8H7FO2
product | 4-{4-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-benzoic acid methyl ester | 580 mg, 44% | COC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=C(C=C1)F)=O | C21H13F4N3O3
